*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-08-18 02:08:52
*********************************************************

.SUBCKT pam4drv_msb_lay sub inp inn vcmb tail0 tail1 vcasc outp outn vcc
XQ_1 outn vcasc \$36 sub npn13G2 Nx=3
XQ_2 outp vcasc \$35 sub npn13G2 Nx=3
XQ_3 outn vcasc \$34 sub npn13G2 Nx=3
XQ_4 \$35 inp \$9 sub npn13G2 Nx=3
XQ_5 \$36 inn \$10 sub npn13G2 Nx=3
XQ_6 \$34 inn \$8 sub npn13G2 Nx=3
XQ_7 \$33 inp \$7 sub npn13G2 Nx=3
XQ_8 outp vcasc \$33 sub npn13G2 Nx=3
XR_9 vcmb inp sub rsil w=0.58u l=2.85u m=1
XR_10 vcmb inn sub rsil w=0.58u l=2.85u m=1
XR_11 tail0 \$7 sub rsil w=4.61u l=0.85u m=1
XR_12 tail0 \$8 sub rsil w=4.61u l=0.85u m=1
XR_13 tail1 \$9 sub rsil w=4.61u l=0.85u m=1
XR_14 tail1 \$10 sub rsil w=4.61u l=0.85u m=1
XR_15 outp vcc sub rsil w=1.01u l=5.43u m=1
XR_16 outn vcc sub rsil w=1.01u l=5.43u m=1
Cext_1 \$10 \$35 5.58889a
Cext_2 \$10 \$36 1.32982f
Cext_3 \$10 \$9 1.08982f
Cext_4 \$10 inn 752.063a
Cext_5 \$10 inp 2.3017a
Cext_6 \$10 sub 8.63537a
Cext_7 \$10 tail1 329.653a
Cext_8 \$10 vcasc 9.38567a
Cext_9 \$10 sub 2.8516f
Cext_10 \$33 \$7 1.34226f
Cext_11 \$33 \$8 5.58889a
Cext_12 \$33 inp 50.9066a
Cext_13 \$33 outp 716.546a
Cext_14 \$33 sub 21.173a
Cext_15 \$33 vcasc 750.954a
Cext_16 \$33 sub 2.21662f
Cext_17 \$34 \$7 26.4759a
Cext_18 \$34 \$8 1.32982f
Cext_19 \$34 inn 50.9066a
Cext_20 \$34 outn 661.201a
Cext_21 \$34 outp 53.5729a
Cext_22 \$34 sub 23.9451a
Cext_23 \$34 vcasc 761.056a
Cext_24 \$34 sub 2.21189f
Cext_25 \$35 \$9 1.34226f
Cext_26 \$35 inp 50.9066a
Cext_27 \$35 outp 716.546a
Cext_28 \$35 sub 23.9451a
Cext_29 \$35 vcasc 761.056a
Cext_30 \$35 sub 2.21184f
Cext_31 \$36 \$9 26.4759a
Cext_32 \$36 inn 50.9066a
Cext_33 \$36 outn 661.201a
Cext_34 \$36 sub 15.4225a
Cext_35 \$36 vcasc 744.367a
Cext_36 \$36 sub 2.22501f
Cext_37 \$7 \$8 1.08982f
Cext_38 \$7 inn 3.38161a
Cext_39 \$7 inp 762.467a
Cext_40 \$7 sub 11.7891a
Cext_41 \$7 tail0 333.35a
Cext_42 \$7 vcasc 15.3808a
Cext_43 \$7 sub 2.92711f
Cext_44 \$8 inn 752.063a
Cext_45 \$8 inp 14.1556a
Cext_46 \$8 sub 4.35613a
Cext_47 \$8 tail0 329.653a
Cext_48 \$8 vcasc 9.38567a
Cext_49 \$8 sub 2.85245f
Cext_50 \$9 inn 3.38161a
Cext_51 \$9 inp 748.955a
Cext_52 \$9 sub 4.35613a
Cext_53 \$9 tail1 333.35a
Cext_54 \$9 vcasc 15.3808a
Cext_55 \$9 sub 2.93603f
Cext_56 inn inp 347.177a
Cext_57 inn sub 18.128a
Cext_58 inn tail0 79.3692a
Cext_59 inn tail1 141.774a
Cext_60 inn vcmb 98.2778a
Cext_61 inp sub 20.8804a
Cext_62 inp tail0 244.921a
Cext_63 inp tail1 82.8622a
Cext_64 inp vcmb 8.78336a
Cext_65 outn outp 583.461a
Cext_66 outn sub 159.967a
Cext_67 outn vcasc 101.467a
Cext_68 outn vcc 1.31031f
Cext_69 outp sub 339.075a
Cext_70 outp vcasc 138.961a
Cext_71 outp vcc 50.9951a
Cext_72 sub tail0 10.0902a
Cext_73 sub tail1 8.61462a
Cext_74 sub vcasc 187.864a
Cext_75 sub vcc 606.369a
Cext_76 sub vcmb 583.681a
Cext_77 sub inn 5.45466f
Cext_78 sub inp 5.21321f
Cext_79 sub outn 8.34898f
Cext_80 sub outp 7.51842f
Cext_81 sub sub 31.8903f
Cext_82 sub tail0 3.59766f
Cext_83 sub tail1 3.59961f
Cext_84 sub vcasc 4.43686f
Cext_85 sub vcc 6.0984f
Cext_86 sub vcmb 6.18432f
XCdeg_r0 \$7 \$8 cap_cmim w=3.45u l=3.45u
XCdeg_r1 \$9 \$10 cap_cmim w=3.45u l=3.45u
.ENDS pam4drv_msb_lay
